US06924400B2
(g) 1-(5′-Ethoxymethoxy-2′methyl-2-propylbiphenyl-4-yl)propan-1-one
1.56 g (7.4 mmol) of 5-ethoxymethoxy-2-methylphenylboronic acid, 2 g (6.2 mmol) of 4-propionyl-2-propylphenyl 1,1,1-trifluoromethanesulfonate, 517 mg (12 mmol) of lithium chloride and 7.4 ml of 2M potassium carbonate solution are dissolved in 50 ml of 1,2-dimethoxyethane in a round-bottomed flask and under a stream of nitrogen. The mixture is refluxed for 10 hours. It is then poured into water and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then evaporated. A brown oil is obtained, which is used without further purification for the rest of the synthesis.

reactant | 5-ethoxymethoxy-2-methylphenylboronic acid | 7.4 mmol, 1.56 g | C(C)OCOC=1C=CC(=C(C1)B(O)O)C | C10H15BO4
reactant | 4-propionyl-2-propylphenyl 1,1,1-trifluoromethanesulfonate | 6.2 mmol, 2 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(CC)=O)CCC)(F)F | C13H15F3O4S
reactant | lithium chloride | 12 mmol, 517 mg | [Cl-].[Li+]
reactant | potassium carbonate | 2M, 7.4 ml | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | 1-(5′-Ethoxymethoxy-2′methyl-2-propylbiphenyl-4-yl)propan-1-one | C(C)OCOC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(CC)=O)CCC)C | C22H28O3
